data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_588348_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])[C:2]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])([H:9])[O:8]1>>[C:1](\[C:2]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])([O:8][H:11])[H:9])([C:3]([H:14])([H:15])[H:16])=[N:5]/[H:10],21.195067499991467
MR_120825_1,[C@@:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:10])[H:11])[H:12])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](\[C:3]([H:16])([H:17])[H:18])[C@@:6]([N:5]([H:10])[H:11])([O:7][H:8])[H:12])[H:9],47.73831749999872
MR_291454_0,[C:1]([C:4]1=[C:5]([C:2]([H:14])([H:15])[H:16])[C:6]1(/[N:8]=[N:3]/[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([c:4]1[c:5]([C:2]([H:14])([H:15])[H:16])[n:3]([O:7][H:9])[n:8][c:6]1[H:10])([H:11])([H:12])[H:13],36.6008200000465
MR_53468_2,[C:1]1([C:2]([H:10])([H:11])[H:12])([H:9])[C:3]([O:5][H:8])([N:6]=[C:4]([H:13])[H:14])[O:7]1>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:5][H:8])=[O:7])([N:6]=[C:4]([H:13])[H:14])[H:9],59.57108500001468
MR_129350_0,[C:1](/[C:3]([C:2]([C:4](=[O:7])[H:10])[N:5][H:8])=[N:6]/[H:9])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C@:4]1([H:10])/[C:2](=[N:5]/[H:8])[O:7]1)=[N:6]/[H:9])([H:11])([H:12])[H:13],61.91416999998438
MR_504120_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[C:7]([H:19])[H:20])([N:5]([H:9])[H:10])[N:8]=[C:6]([H:17])[H:18]>>[C:1](\[C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])([C:7]([H:9])([H:19])[H:20])[N:8]=[C:6]([H:17])[H:18])=[N:5]\[H:10],58.80176999995953
MR_105036_1,[C:1]([C:2]([C:5]([O:8][H:10])=[O:9])([N:7]([H:14])[H:15])[H:11])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[N:6]([H:12])[H:13]>>[C:1](\[C:2]([C:5]([C:4]([H:19])([H:20])[H:21])([O:8][H:10])[O:9][H:12])([N:7]([H:14])[H:15])[H:11])([C:3]([H:16])([H:17])[H:18])=[N:6]/[H:13],68.2876875000153
MR_331044_0,[C:1]([N:2]([O:5][C:3]([N:4]([H:9])[H:10])=[O:7])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:2]([O:6][H:8])[O:7][C:3]([N:4]([H:9])[H:10])=[O:5])([H:11])([H:12])[H:13],38.20972999997935
MR_643745_2,[C:1](=[C:3]([C:2]([H:14])([H:15])[H:16])[C:4](/[C:5](=[N:7]\[H:9])[H:13])([O:6][H:8])[H:10])([H:11])[H:12]>>[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:4](\[O:6][H:8])[H:10])(/[C:5](=[N:7]\[H:9])[H:13])([H:11])[H:12],69.85957500000595
MR_343491_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])=[O:8])([O:6][H:11])[O:7][H:10]>>[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])[O:8][H:10])([O:6][H:11])=[O:7],47.16791999997639
MR_298539_1,[C:1](/[C:3]([N:2]([C:4](=[O:7])[H:10])[H:9])=[C:5](\[O:6][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]/[H:9])[C:5]([C:4](=[O:7])[H:10])([O:6][H:8])[H:11])([H:12])([H:13])[H:14],59.26298249997217
MR_19378_0,[C:1]([C:4]1=[N:7][C:6]1(/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:3]/[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([c:4]1[n:3]([H:8])[c:5]([C:2]([H:13])([H:14])[H:15])[c:6]([H:9])[n:7]1)([H:10])([H:11])[H:12],44.73573000001764
MR_53884_0,[C:1](/[N:8]=[C:4](/[N:3]([C:5]([C:2]([H:17])([H:18])[H:19])=[O:9])[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:8](/[C:4](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[C:5]([C:2]([H:17])([H:18])[H:19])=[O:9])([H:14])([H:15])[H:16],33.30205249999281
MR_99491_0,[C:1]([N:4](/[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:9])[O:7][H:8])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](\[C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])([O:7][H:8])[H:9])([H:10])([H:11])[H:12],43.20714000002468
MR_231769_1,[C:1]([N:3]([C:2]([H:17])([H:18])[H:19])[N:5]([H:9])[H:10])([N:8]=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])[H:16]>>[C:1](=[N:8][C:4]([N:3]([C:2]([H:17])([H:18])[H:19])[N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])[H:16],60.71438999998165
MR_23303_2,[N:1]1([N:3]([H:8])[H:9])[C:2]([N:4]([H:10])[H:11])([C:5](=[C:7]([H:15])[H:16])[H:12])[C:6]1([H:13])[H:14]>>[N:1]([C:2]([C:5](=[C:7]([H:15])[H:16])[H:12])=[C:6]([H:13])[H:14])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11],61.77925750000398
MR_526547_0,[C:1]([O:6][N:4]([C:3]([H:15])([H:16])[H:17])[N:5]([O:7][C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11]>>[C:1]([O:6][N:5]([N:4]([C:3]([H:15])([H:16])[H:17])[O:7][C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11],72.61931999999376
MR_171388_1,[C:1]([C:2]([C:6]([C:5]([O:7][H:11])=[O:9])=[O:10])([H:14])[H:15])([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([O:8][H:12])[H:13]>>[C:1]([C:2]([C:6]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([C:5]([O:7][H:11])=[O:9])[O:10][H:12])([H:14])[H:15])(=[O:8])[H:13],65.16524749998013
MR_598436_1,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])=[C:5]([C:6]([N:4]([H:9])[H:10])([O:7][H:8])[H:12])[H:11]>>[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])(/[C:5](=[C:6](\[N:4]([H:9])[H:10])[H:12])[H:11])[O:7][H:8],53.49060999999296
